US08193164B2
(4-Amino-piperidin-1-yl)-((R)-3-amino-pyrrolidin-1-yl)-methanone is prepared analogously to (R)-3-amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide (Intermediate IF) by replacing (4-amino-cyclohexyl)-carbamic acid tert-butyl ester with piperidin-4-yl-carbamic acid tert-butyl ester.

reactant | (R)-3-amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide | NC1CCC(CC1)NC(=O)N1C[C@@H](CC1)N | C11H22N4O
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | (4-Amino-piperidin-1-yl)-((R)-3-amino-pyrrolidin-1-yl)-methanone | NC1CCN(CC1)C(=O)N1C[C@@H](CC1)N | C10H20N4O
